US08067445B2
Step 1: {2′-[(Ethyl-methoxycarbonyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
To (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.091 g, 0.24 mmol) and triethylamine (0.05 mL, 0.36 mmol) in CH2Cl2 (1 mL) was added methyl chloroformate (0.03 mL, 0.36 mmol), and the mixture was stirred at room temperature for 20 minutes. Once no starting material was seen by analytical LCMS, the reaction was quenched with H2O and diluted with CH2Cl2 and saturated aqueous NaHCO3. The aqueous layer was separated and extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.24 mmol, 0.091 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | triethylamine | 0.36 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.36 mmol, 0.03 mL | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | {2′-[(Ethyl-methoxycarbonyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)OC)CC)=O | C22H24F3NO5
